US08026233B2
Step B: Preparation of 1-(6-Bromo-5-(2,4-difluorophenoxy)-1H-indazol-1-yl)-2-methylpropan-2-ol:
To a stirred solution of 1-(6-Bromo-5-(2,4-difluorophenoxy)-1H-indazol-1-yl)propan-2-one (3.81 g, 10.0 mmol) in toluene (100 mL) at 21° C. was added a 3.0 M solution of methylmagnesium chloride in THF (5.0 mL, 15 mmol) in one portion. The temperature of the resulting solution rose to 34° C. and was stirred without any temperature control. After a total of 60 min the reaction mixture was quenched by addition of saturated ammonium chloride (50 mL). The resulting mixture was vigorously stirred for 20 min, then transferred to a separatory funnel and shaken. The organic layer was dried over sodium sulfate and the solvent removed under reduced pressure to afford the title compound as an orange oil (3.79 g, 96%) that slowly crystallized on standing.

reactant | 1-(6-Bromo-5-(2,4-difluorophenoxy)-1H-indazol-1-yl)propan-2-one | 10.0 mmol, 3.81 g | BrC1=C(C=C2C=NN(C2=C1)CC(C)=O)OC1=C(C=C(C=C1)F)F | C16H11BrF2N2O2
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | THF | 15 mmol, 5.0 mL | C1CCOC1 | C4H8O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-Bromo-5-(2,4-difluorophenoxy)-1H-indazol-1-yl)-2-methylpropan-2-ol | 3.79 g, 96% | BrC1=C(C=C2C=NN(C2=C1)CC(C)(O)C)OC1=C(C=C(C=C1)F)F | C17H15BrF2N2O2
